US06743794B2
2-Fluoro-3-iodobenzaldehyde
To a solution of diisopropylamine (10.42 mL, 74.36) in THF (135 mL) under N2 in an ice bath at 0-5° C. was added dropwise over 10 min n-BuLi (42.25 mL, 67.6 mmol) and stirred at this temperature for 10 min. Cooled the reaction mixture to −78° C. in a dry ice/acetone bath and dropwise added 1-fluoro-2-iodobenzene (7.88 mL, 67.6 mmol) over 5 min. Stirred at this temperature for 1 h, dropwise added DMF (6.26 mL, 74.36 mL) over 5 min, and stirred for 10 min. Added Acetic Acid (13.5 mL) followed by H2O and extracted with Et2O (2×). The combined organic solution was washed (0.1 N HCl then brine), dried (MgSO4), filtered and concentrated. The crude benzaldehyde (16.9 g) was taken onto the next step without purification. 1H NMR was consistent with structure.

reactant | diisopropylamine | 10.42 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 67.6 mmol, 42.25 mL | [Li]CCCC
reactant | 1-fluoro-2-iodobenzene | 67.6 mmol, 7.88 mL | FC1=C(C=CC=C1)I | C6H4FI
reactant | DMF | 6.26 mL | CN(C)C=O | C3H7NO
solvent | THF | 135 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | Acetic Acid | 13.5 mL | C(C)(=O)O | C2H4O2
product | 2-Fluoro-3-iodobenzaldehyde | FC1=C(C=O)C=CC=C1I | C7H4FIO
